US05587379
Under a nitrogen atmosphere, a stirred mixture of 53.7 grams (0.49 mole) of finely ground 2,4-diaminopyrimidine and 167.0 grams (0.73 mole) of ammonium persulfate was cooled to 18° C., and a solution of 144.0 grams of sodium hydroxide in 250 mL of water was added dropwise during a 3.5 hour period. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature as it stirred during about a 16 hour period. After this time the reaction mixture was cooled to 0° C., and 300 mL of 12N hydrochloric acid was added dropwise. Upon completion of addition, the reaction mixture was cooled to -5° C., and the resultant solid was collected by filtration. The solid was recrystallized from water, yielding 47.5 grams of 2,4-diamino-5-pyrimidinyl hydrogen sulfate. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diaminopyrimidine | NC1=NC=CC(=N1)N | C4H6N4
reactant | ammonium persulfate | 0.73 mole, 167.0 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | 144.0 grams | [OH-].[Na+]
reactant | hydrochloric acid | 12N, 300 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 2,4-diamino-5-pyrimidinyl hydrogen sulfate | 47.5 grams | S(=O)(=O)(OC=1C(=NC(=NC1)N)N)O | C4H6N4O4S
